US07612211B2
F. 2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-benzenesulfonamide
A solution of N-tert-butyl-2-[2-(4-trifluoromethyl-phenoxymethyl)-1H benzoimidazol-5-yl]-benzenesulfonamide (40.0 mg, 0.80 mmol) in trifluoroacetic acid (4 mL) was heated at 75° C. for 2 h. The reaction mixture was concentrated under reduced pressure. The resulting TFA salt was diluted with methanol and passed though a sodium bicarbonate cartridge to afford the title compound as the free base (33.8 mg, 95% yield).

reactant | N-tert-butyl-2-[2-(4-trifluoromethyl-phenoxymethyl)-1H benzoimidazol-5-yl]-benzenesulfonamide | 0.80 mmol, 40.0 mg | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC2=C(NC(=N2)COC2=CC=C(C=C2)C(F)(F)F)C=C1 | C25H24F3N3O3S
solvent | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-benzenesulfonamide | FC(C1=CC=C(OCC2=NC3=C(N2)C=CC(=C3)C3=C(C=CC=C3)S(=O)(=O)N)C=C1)(F)F | C21H16F3N3O3S
